US07622598B2
5-Chloro-2,4-dihydroxy-3-(1-hydroxydodecyl) benzaldehyde (300 mg, 0.84 mmol) was stirred in acetic acid (2 ml) in the presence of 85% phosphoric acid (0.81 ml) at a reflux temperature for one hour. The reaction mixture was cooled to room temperature, added with a saturated sodium chloride solution (20 ml). After extractive workup with ethyl acetate, the crude product was purified by, silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain 5-chloro-3-(1-dodecenyl)-2,4-dihydroxybenzaldehyde (pale yellow solid 238 mg, yield 84%)

reactant | 5-Chloro-2,4-dihydroxy-3-(1-hydroxydodecyl) benzaldehyde | 0.84 mmol, 300 mg | ClC=1C(=C(C(=C(C=O)C1)O)C(CCCCCCCCCCC)O)O | C19H29ClO4
reactant | phosphoric acid | 0.81 ml | P(O)(O)(O)=O | H3O4P
reactant | sodium chloride | 20 ml | [Cl-].[Na+]
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 5-chloro-3-(1-dodecenyl)-2,4-dihydroxybenzaldehyde | 238 mg, yield 84% | ClC=1C(=C(C(=C(C=O)C1)O)C=CCCCCCCCCCC)O | C19H27ClO3
